*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_1000_7000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_1000 0 169.021
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 169.021
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 1.18329e-11
rdload_0_0_0_1 nd_1_0_3000_1000 0 128.984
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 128.984
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 1.55058e-11
rdload_0_0_0_2 nd_1_0_5000_1000 0 152.424
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 152.424
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 1.31213e-11
rdload_0_0_0_3 nd_1_0_7000_1000 0 188.27
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 188.27
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 1.0623e-11
rdload_0_0_0_4 nd_1_0_9000_1000 0 341.828
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 341.828
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 5.8509e-12
rdload_0_0_0_5 nd_1_0_1000_3000 0 582.254
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 582.254
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 3.43493e-12
rdload_0_0_0_6 nd_1_0_3000_3000 0 2064.77
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 2064.77
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 9.68632e-13
rdload_0_0_0_7 nd_1_0_5000_3000 0 127.714
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 127.714
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.566e-11
rdload_0_0_0_8 nd_1_0_7000_3000 0 183.855
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 183.855
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 1.08781e-11
rdload_0_0_0_9 nd_1_0_9000_3000 0 235.839
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 235.839
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 8.48036e-12
rdload_0_0_0_10 nd_1_0_1000_5000 0 137.321
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 137.321
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 1.45645e-11
rdload_0_0_0_11 nd_1_0_3000_5000 0 164.198
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 164.198
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.21804e-11
rdload_0_0_0_12 nd_1_0_5000_5000 0 126.152
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 126.152
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.58539e-11
rdload_0_0_0_13 nd_1_0_7000_5000 0 149.574
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 149.574
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.33713e-11
rdload_0_0_0_14 nd_1_0_9000_5000 0 796.447
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 796.447
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 2.51115e-12
rdload_0_0_0_15 nd_1_0_1000_7000 0 232.996
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 232.996
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 8.58385e-12
rdload_0_0_0_16 nd_1_0_3000_7000 0 163.76
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 163.76
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.2213e-11
rdload_0_0_0_17 nd_1_0_5000_7000 0 1440.73
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 1440.73
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.38818e-12
rdload_0_0_0_18 nd_1_0_7000_7000 0 125.236
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 125.236
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 1.59698e-11
rdload_0_0_0_19 nd_1_0_9000_7000 0 147.137
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 147.137
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 1.35928e-11
rdload_0_0_0_20 nd_1_0_1000_9000 0 230.931
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 230.931
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 8.66061e-12
rdload_0_0_0_21 nd_1_0_3000_9000 0 134.91
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 134.91
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.48247e-11
rdload_0_0_0_22 nd_1_0_5000_9000 0 504.853
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 504.853
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 3.96155e-12
rdload_0_0_0_23 nd_1_0_7000_9000 0 261.937
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 261.937
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 7.63542e-12
rdload_0_0_0_24 nd_1_0_9000_9000 0 381.202
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 381.202
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 5.24656e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val156'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val157'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val158'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val159'
rd_add0 nd0 0 'esr35'
rd_add1 nd1 0 'esr36'
rd_add2 nd2 0 'esr37'
rd_add3 nd3 0 'esr38'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet6
