*-- pdngen: spice deck generated for chip 'chiplet7' PDN
*-- die chiplet7:  W/H: 0.002/0.002


.subckt chiplet7
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_7000_1000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_1000 0 391.832
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 391.832
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 5.10423e-12
rdload_0_0_0_1 nd_1_0_3000_1000 0 292.879
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 292.879
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 6.82876e-12
rdload_0_0_0_2 nd_1_0_5000_1000 0 2974.28
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 2974.28
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 6.72431e-13
rdload_0_0_0_3 nd_1_0_7000_1000 0 375.17
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 375.17
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 5.33091e-12
rdload_0_0_0_4 nd_1_0_9000_1000 0 96.6359
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 96.6359
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 2.06962e-11
rdload_0_0_0_5 nd_1_0_1000_3000 0 2456.92
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 2456.92
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 8.14028e-13
rdload_0_0_0_6 nd_1_0_3000_3000 0 365.189
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 365.189
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 5.47661e-12
rdload_0_0_0_7 nd_1_0_5000_3000 0 198.182
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 198.182
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.00917e-11
rdload_0_0_0_8 nd_1_0_7000_3000 0 483.352
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 483.352
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 4.13777e-12
rdload_0_0_0_9 nd_1_0_9000_3000 0 122.912
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 122.912
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 1.62719e-11
rdload_0_0_0_10 nd_1_0_1000_5000 0 94.7195
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 94.7195
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 2.1115e-11
rdload_0_0_0_11 nd_1_0_3000_5000 0 133.976
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 133.976
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.4928e-11
rdload_0_0_0_12 nd_1_0_5000_5000 0 102.155
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 102.155
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.95782e-11
rdload_0_0_0_13 nd_1_0_7000_5000 0 148.531
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 148.531
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.34652e-11
rdload_0_0_0_14 nd_1_0_9000_5000 0 450.888
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 450.888
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 4.43569e-12
rdload_0_0_0_15 nd_1_0_1000_7000 0 222.286
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 222.286
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 8.99743e-12
rdload_0_0_0_16 nd_1_0_3000_7000 0 145.823
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 145.823
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.37153e-11
rdload_0_0_0_17 nd_1_0_5000_7000 0 109.023
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 109.023
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 1.83448e-11
rdload_0_0_0_18 nd_1_0_7000_7000 0 100.202
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 100.202
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 1.99596e-11
rdload_0_0_0_19 nd_1_0_9000_7000 0 618.739
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 618.739
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 3.23238e-12
rdload_0_0_0_20 nd_1_0_1000_9000 0 107.852
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 107.852
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.85439e-11
rdload_0_0_0_21 nd_1_0_3000_9000 0 1114.68
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 1114.68
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.79423e-12
rdload_0_0_0_22 nd_1_0_5000_9000 0 596.065
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 596.065
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 3.35534e-12
rdload_0_0_0_23 nd_1_0_7000_9000 0 249.39
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 249.39
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 8.01956e-12
rdload_0_0_0_24 nd_1_0_9000_9000 0 997.811
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 997.811
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 2.00439e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val160'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val161'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val162'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val163'
rd_add0 nd0 0 'esr39'
rd_add1 nd1 0 'esr40'
rd_add2 nd2 0 'esr41'
rd_add3 nd3 0 'esr42'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet7
